US04628057
(1RS,3SR)-trans-1-n-Butyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 43, (1RS,3SR)-trans-1-n-butyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (1.2 g), triethylamine (1.02 g), carbon disulfide (0.39 g), methyl iodide (0.72 g), methanol (14 ml) and water (2 ml) are reacted and treated. The product is recrystallized from aqueous ethanol to give the title compound (1.2 g, 75%), m.p. 99°-102° C. (decomp.).

reactant | (1RS,3SR)-trans-1-n-butyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.2 g | C(CCC)[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C16H20N2O2
reactant | triethylamine | 1.02 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.39 g | C(=S)=S | CS2
reactant | methyl iodide | 0.72 g | CI | CH3I
solvent | water | 2 ml | O | H2O
solvent | methanol | 14 ml | CO | CH4O
product | (1RS,3SR)-trans-1-n-Butyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.2 g, 75% | C(CCC)[C@@H]1N([C@H](CC=2C3=CC=CC=C3NC12)C(=O)O)C(=S)SC | C18H22N2O2S2
